US04209626
5-(2-Chlorophenyl)-1,2-dihydro-2-oxo-3-pyridinecarbonitrile
In the manner described in Example 6, a solution of 48.6 g. of sodium methoxide and 42.0 g. of cyanoacetamide in 1000 ml. of methanol and 93.6 g. of 2-(2-chlorophenyl)-3-(dimethylamino)-2-propenal is refluxed for 16 hours to yield 30.0 g. of a tan solid. The solid is recrystallized from ethanol to yield the product of the Example as white needles, m.p. 252°-254° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 2-(2-chlorophenyl)-3-(dimethylamino)-2-propenal | ClC1=C(C=CC=C1)C(C=O)=CN(C)C | C11H12ClNO
solvent | methanol | CO | CH4O
product | 5-(2-Chlorophenyl)-1,2-dihydro-2-oxo-3-pyridinecarbonitrile | ClC1=C(C=CC=C1)C=1C=C(C(NC1)=O)C#N | C12H7ClN2O
